US07678818B2
Preparation of 5-chloro-2-methylamino-nicotinic acid
A mixture of 2,5-dichloronicotinic acid (1.76 g, 9.17 mmol), 41% aq. methylamine solution (7 mL), and 1,4-dioxane (6 mL) was heated at 160° C. under microwave irradiation for 20 min. After cooling, volatile material was distilled off, and the residue was dissolved in water (30 mL) and acidified to pH 3 by addition of 37% aq. hydrochloric acid solution. The precipitate was collected by filtration and triturated in DCM to produce the title compound (1.60 g, 92%). Off-white solid, MS (ISP): 187.1 (M+H)+.

reactant | 2,5-dichloronicotinic acid | 9.17 mmol, 1.76 g | ClC1=C(C(=O)O)C=C(C=N1)Cl | C6H3Cl2NO2
reactant | methylamine | 7 mL | CN | CH5N
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 5-chloro-2-methylamino-nicotinic acid | 1.60 g, 92% | ClC=1C=NC(=C(C(=O)O)C1)NC | C7H7ClN2O2
